US06100421
To a mixture of 30 ml dioxane and 16 ml water, was dissolved methyl 2,4-dichloro-3-(2-dimethylaminomethylidene-1-oxopropyl)benzoate in an amount of 7.57 g, and the resulting solution was then added with hydroxylamine hydrochloride in an amount of 1.70 g and further stirred for 17 hours at an ambient temperature. After distillating out the solvent in the solution under reduced pressure, the residue obtained was dissolved in ethyl acetate, and the solution was then washed with saturated saline solution and dried with anhydrous magnesium sulfate. After distillating out the solvent in the solution under reduced pressure, crude oxime-form of the product obtained was dissolved in 30 ml toluene and then stirred for 14.5 hours under reflux and heating following to the addition of p-toluenesulfonic acid in an amount of 0.5 g. The reacted-mixture was cooled, then washed with water and saturated saline solution in turn and dried with anhydrous magnesium sulfate. The solvent used for the mixture was then condensed under reduced pressure, and the residue obtained was purified by using a silica gel column chromatography to obtain an objective product, methyl 2,4-dichloro-3-(4-methylisoxazol-5-yl)benzoate in an amount of 0.83 g.

reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | methyl 2,4-dichloro-3-(2-dimethylaminomethylidene-1-oxopropyl)benzoate | ClC1=C(C(=O)OC)C=CC(=C1C(C(C)=CN(C)C)=O)Cl | C14H15Cl2NO3
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 16 ml | O | H2O
product | methyl 2,4-dichloro-3-(4-methylisoxazol-5-yl)benzoate | ClC1=C(C(=O)OC)C=CC(=C1C1=C(C=NO1)C)Cl | C12H9Cl2NO3
